* C:\Users\MyPC\Desktop\Charge_Controller\Simulations\MOS_Heat_LTSpice\MOSFET_Heat_Sim_PWL.asc
M1 Vmid Vlo_g 0 0 IPB027N10N3
M2 Vsup Vhi_g Vmid Vmid IPB027N10N3
R1 Vout 0 1
V1 Vsup 0 12 Rser=0.1 Cpar=0.1u
V2 Vlp 0 PWL file=Ulow_PWL.txt
R2 Vhi_g Vhp 1
R3 Vlo_g Vlp 1
R4 Vhi_g 0 1k
R5 Vlo_g 0 1k
C1 P001 0 470µ
R6 Vout P001 0.01
L1 Vmid Vout 64µ
V3 Vhp 0 PWL file=UHi_PWL.txt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\MyPC\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1ms startup
.backanno
.end
